US07582760B2
To 10 mL of a 9:1 mixture of dimethoxyethane/water was added 3-benzyl-7-bromo-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester (0.719 g, 1.783 mmol), 3-boranyl-1-triisopropylsilanyl-1H-pyrrole (0.476 g, 1.783 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (69.7 mg, 0.089 mmol), and cesium carbonate (0.697 g, 2.139 mmol.) The resulting suspension was vacuum-purged with argon and heated to 85° C. for 1 hour. The reaction mixture was added to 100 mL of 1:1 water/ethyl acetate and the organic layer was separated. The combined organic fractions were washed with 100 mL each of water and brine and dried over sodium sulfate. Concentration in vacuo gave a crude solid which was purified by flash chromatography (0 to 10% gradient ethyl acetate in hexanes) to give 0.750 g of 3-benzyl-2-oxo-7-(1-triisopropylsilanyl-1H-pyrrol-3-yl)-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester as a white solid. MS: 446 (M−BOC+H)+.

reactant | 3-benzyl-7-bromo-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | 1.783 mmol, 0.719 g | C(C)(C)(C)OC(=O)N1C(N(C2=C1C(=CC=C2)Br)CC2=CC=CC=C2)=O | C19H19BrN2O3
reactant | 3-boranyl-1-triisopropylsilanyl-1H-pyrrole | 1.783 mmol, 0.476 g | BC1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C13H26BNSi
reactant | dichloromethane | 0.089 mmol, 69.7 mg | ClCCl | CH2Cl2
reactant | cesium carbonate | 2.139 mmol, 0.697 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethoxyethane water | C(OC)COC.O
product | 3-benzyl-2-oxo-7-(1-triisopropylsilanyl-1H-pyrrol-3-yl)-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.750 g | C(C)(C)(C)OC(=O)N1C(N(C2=C1C(=CC=C2)C2=CN(C=C2)[Si](C(C)C)(C(C)C)C(C)C)CC2=CC=CC=C2)=O | C32H43N3O3Si
